US07361678B2
To a stirred solution of 6-(3-diethylaminopropoxy)-2,4-difluoronitrobenzene (11 mmol) and triethylamine (22 mmol) in DMF (20 mL), a solution of n-butylamine (11 mmol) in DMF (8 mL) was added dropwise at rt, and the mixture was stirred at rt for 10 h. The reaction was quenched by cold H2O (50 mL), and the resulting mixture was extracted with EtOAc (3×100 mL). The combined EtOAc extracts were washed with brine (3×50 mL) and dried (anhydrous Na2SO4). The solvent was removed in vacuo to afford the desired 2-n-butylamino-6-(3-diethylaminopropoxy)-4-fluoronitrobenzene which was used for further transformation.

reactant | 6-(3-diethylaminopropoxy)-2,4-difluoronitrobenzene | 11 mmol | C(C)N(CCCOC1=CC(=CC(=C1[N+](=O)[O-])F)F)CC | C13H18F2N2O3
reactant | triethylamine | 22 mmol | C(C)N(CC)CC | C6H15N
reactant | n-butylamine | 11 mmol | C(CCC)N | C4H11N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-n-butylamino-6-(3-diethylaminopropoxy)-4-fluoronitrobenzene | C(CCC)NC1=C(C(=CC(=C1)F)OCCCN(CC)CC)[N+](=O)[O-] | C17H28FN3O3
